US08182718B2
Hto=6-Methyl-N-pyridin-2-ylpyridin-2-amine
To a flask were added 3.2 g of 2-amino-6-methylpyridine, 4.9 g of 2-bromopyridine, 3.5 g of sodium tert-butoxide, and 120 ml toluene. The mixture was purged thoroughly with nitrogen and 83 mg of 1,1′-bis(diphenylphosphino)ferrocene and 34 mg of palladium acetate were added. The reaction mixture was heated to 65 C for 3 hours, to 75 C for 2 hours, and then cooled to 22 C. After quenching with 75 ml of water, the product was extracted with 75 ml ethyl acetate. The product was extracted with 50 ml of 1M hydrochloric acid, and washed with 30 ml of ethyl acetate. After basifying with 3M sodium hydroxide, the product was extracted with 75 ml of ethyl acetate and washed with 30 ml of water. Following solvent removal, the product was purified by silica gel chromatography using 38% ethyl acetate, 50% hexane, and 12% methanol resulting in an orange oil.

reactant | 2-amino-6-methylpyridine | 3.2 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | 2-bromopyridine | 4.9 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium tert-butoxide | 3.5 g | CC(C)([O-])C.[Na+]
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Methyl-N-pyridin-2-ylpyridin-2-amine | CC1=CC=CC(=N1)NC1=NC=CC=C1 | C11H11N3
